US04452992
A solution of 15 g of 5-(2,6-dichloro-4-trifluoromethyl- phenoxy)-2-nitro-α-phenoxypropionyl chloride in 30 ml of toluene was added dropwise to a solution of 3.7 g of ethyl hydroxyacetate and 4 g of triethylamine in 70 ml of toluene cooled to 0° to 5° C. The reaction mixture was stirred at room temperature overnight, diluted with 300 ml of toluene, washed to neutrality, dried, filtered and evaporated. 13.5 g ethoxycarbonylmethyl 5-(2,6-dicloro-4-trifluoromethyl-phenoxy)-2nitro-α- phenoxy-propionate were initially obtained in the form of a yellowish oil which then crystallised. Melting point: 75° to 76° C. The yield of pure substance was calculated to be 70.5% of theory.

reactant | 5-(2,6-dichloro-4-trifluoromethyl- phenoxy)-2-nitro-α-phenoxypropionyl chloride | 15 g | ClC1=C(OC=2C=CC=C(OC(C(=O)Cl)(C)[N+](=O)[O-])C2)C(=CC(=C1)C(F)(F)F)Cl | C16H9Cl3F3NO5
reactant | ethyl hydroxyacetate | 3.7 g | OCC(=O)OCC | C4H8O3
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | ethoxycarbonylmethyl 5-(2,6-dicloro-4-trifluoromethyl-phenoxy)-2nitro-α- phenoxy-propionate | 13.5 g | ClC1=C(OC=2C=CC=C(OC(C(=O)OCC(=O)OCC)(C)[N+](=O)[O-])C2)C(=CC(=C1)C(F)(F)F)Cl | C20H16Cl2F3NO8
